US06242450B1
1-(3-(2-tert-butylphenoxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine
Beginning with 0.298 gm (1.3 mMol) 3-chloropropyl 2-tert-butylphenyl ether and 0.300 gm (1.3 mMol) 4-hydroxy-4-(quinolin-3-yl)piperidine, 0.212 gm (39%) of the title compound were recovered as a white, waxy solid.

reactant | 3-chloropropyl 2-tert-butylphenyl ether | 1.3 mMol, 0.298 gm | C(C)(C)(C)C1=C(C=CC=C1)OCCCCl | C13H19ClO
reactant | 4-hydroxy-4-(quinolin-3-yl)piperidine | 1.3 mMol, 0.300 gm | OC1(CCNCC1)C=1C=NC2=CC=CC=C2C1 | C14H16N2O
product | 1-(3-(2-tert-butylphenoxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine | 0.212 gm, 39% | C(C)(C)(C)C1=C(OCCCN2CCC(CC2)(C=2C=NC3=CC=CC=C3C2)O)C=CC=C1 | C27H34N2O2
